US06297260B1
30a. tert-Butyl 4-(dicyclopropylsulfanylmethyl)-4-(ethoxycarbonyl)piperidine carboxylate
To a stirred solution of ethyl N-(t-butoxycarbonyl)isonipecotate (1.06 g, 4.12 mmol) in THF (8 mL) at −78° C. was added LDA (1.5M, 2.75 mL, 4.12 mmol) dropwise, and the mixture was stirred for 30 minutes before addition of a solution of dicyclopropylthioketone (415 mg, 3.30 mmol) in THF (1 mL). After the addition, the reaction mixture was warmed to room temperature over 2 hours, quenched with satd aq NH4Cl, and extracted with EtOAc. The combined organic extracts were dried over Na2SO4, filtered, and concentrated to afford the title compound as a viscous oil (1.53 g, 96%), which was used in the next step without further purification.

reactant | ethyl N-(t-butoxycarbonyl)isonipecotate | 4.12 mmol, 1.06 g | C(C)(C)(C)OC(=O)N1CCC(C(=O)OCC)CC1 | C13H23NO4
reactant | LDA | 4.12 mmol, 1.5M, 2.75 mL | [Li+].CC(C)[N-]C(C)C
reactant | dicyclopropylthioketone | 3.30 mmol, 415 mg | C1(CC1)C(=S)C1CC1 | C7H10S
reactant | THF | 8 mL | C1CCOC1 | C4H8O
reactant | THF | 1 mL | C1CCOC1 | C4H8O
product | tert-Butyl 4-(dicyclopropylsulfanylmethyl)-4-(ethoxycarbonyl)piperidine carboxylate | 1.53 g, 96% | C1(CC1)S(C1CC1)CC1(CCN(CC1)C(=O)OC(C)(C)C)C(=O)OCC | C20H35NO4S
